US07368454B2
a) 1-(2-Amino-6-methyl-benzyl)-3-(3-trifluoromethyl-phenyl)-thiourea
3-(Trifluoromethyl)phenyl isothiocyanate (224 mg, 1.10 mmol) was added to a solution of 2-aminomethyl-3-methyl-phenylamine (150 mg, 1.10 mmol) in ethyl acetate (3 ml); the reaction mixture was shaken at 80° C. overnight in a screw-cap vial. For workup, more ethyl acetate was added, the mixture was washed with water and brine, and dried (Na2SO4). After evaporation of the solvent under reduced pressure, the title compound (50 mg, 13%) was obtained by purification of the residue (silica gel, heptan/ethyl acetate=100:0-80:20).

reactant | 3-(Trifluoromethyl)phenyl isothiocyanate | 1.10 mmol, 224 mg | FC(C=1C=C(C=CC1)N=C=S)(F)F | C8H4F3NS
reactant | 2-aminomethyl-3-methyl-phenylamine | 1.10 mmol, 150 mg | NCC1=C(C=CC=C1C)N | C8H12N2
solvent | ethyl acetate | 3 ml | C(C)(=O)OCC | C4H8O2
product | 1-(2-Amino-6-methyl-benzyl)-3-(3-trifluoromethyl-phenyl)-thiourea | 50 mg, 13% | NC1=C(CNC(=S)NC2=CC(=CC=C2)C(F)(F)F)C(=CC=C1)C | C16H16F3N3S
